US08754073B2
59.1 tert-butyl 4-[4-(cyclopropylmethylcarbamoyl)-phenyl]-piperidine-1-carboxylate
500 mg tert-butyl 4-(4-carboxyphenyl)-piperidine-1-carboxylate are placed in 28 ml dimethylformamide, then 1.14 ml diisopropylethylamine and 747 mg HATU are added. The reaction mixture is stirred for 15 min at ambient temperature, then 194 mg cyclopropylmethylamin hydrochloride are added. The reaction mixture is stirred overnight at ambient temperature. Then the product is purified by preparative HPLC (method A). 480 mg product are obtained as an oil. Analytical HPLC-MS (method B): RT=1.64 min.

reactant | tert-butyl 4-(4-carboxyphenyl)-piperidine-1-carboxylate | 500 mg | C(=O)(O)C1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C17H23NO4
reactant | diisopropylethylamine | 1.14 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 747 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | cyclopropylmethylamin hydrochloride | 194 mg | Cl.C1(CC1)CN
solvent | dimethylformamide | 28 ml | CN(C=O)C | C3H7NO
product | tert-butyl 4-[4-(cyclopropylmethylcarbamoyl)-phenyl]-piperidine-1-carboxylate | 480 mg | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C21H30N2O3
